US08802678B2
A solution of 1.5 g (3.59 mmol) of 4-{2-[4-(3-carboxyphenyl)piperazin-1-yl]ethyl}piperidine-1-carboxylic acid tert-butyl ester in 20 mL of dry tetrahydrofuran is cooled to −10° C. under argon. An addition of 11 mL of a 1M solution of boranetetrahydrofuran complex in tetrahydrofuran is performed at −10° C. Stirring is maintained overnight at room temperature. The mixture is cooled to 0° C. and 12 mL of 1N aqueous sodium hydroxide solution are added. The product is extracted with ethyl acetate, washed with water, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The residue is stirred with diisopropyl ether, filtered and dried under reduced pressure to give 1.0 g (69%) of 4-{2-[4-(3-hydroxymethylphenyl)piperazin-1-yl]ethyl}piperidine-1-carboxylic acid tert-butyl ester.

reactant | 4-{2-[4-(3-carboxyphenyl)piperazin-1-yl]ethyl}piperidine-1-carboxylic acid tert-butyl ester | 3.59 mmol, 1.5 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CCN1CCN(CC1)C1=CC(=CC=C1)C(=O)O | C23H35N3O4
reactant | sodium hydroxide | 1N, 12 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 4-{2-[4-(3-hydroxymethylphenyl)piperazin-1-yl]ethyl}piperidine-1-carboxylic acid tert-butyl ester | 1.0 g, 69% | C(C)(C)(C)OC(=O)N1CCC(CC1)CCN1CCN(CC1)C1=CC(=CC=C1)CO | C23H37N3O3
